US05661169
N-(1,1-Dimethylpropyl)-4-bromomethylbenzenesulfonamide
To a solution of 10 g of 4-bromomethylbenzenesulfonyl chloride and 10 ml of triethylamine in 50 ml of toluene is added, dropwise at RT, a solution of 3.2 g of tert-amylamine in 10 ml of toluene, and the mixture is left stirring for 3 hours at RT. Water is then added to the reaction mixture and, after separation by settling, the organic phase is washed with water and dried over Na2SO4, and the solvent is evaporated off under vacuum. The residue is chromatographed on silica, eluting with a DCM/heptane mixture (50/50; v/v). 1 g of the expected product is obtained after crystallization from iso ether, mp=100° C.

reactant | 4-bromomethylbenzenesulfonyl chloride | 10 g | BrCC1=CC=C(C=C1)S(=O)(=O)Cl | C7H6BrClO2S
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
reactant | tert-amylamine | 3.2 g | C(C)(C)(CC)N | C5H13N
reactant | Water | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N-(1,1-Dimethylpropyl)-4-bromomethylbenzenesulfonamide | 1 g | CC(CC)(C)NS(=O)(=O)C1=CC=C(C=C1)CBr | C12H18BrNO2S
